US06924278B2
Under nitrogen atmosphere, to a mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine (315 mg) and 3-(1-methyl-1H-imidazol-4-yl)propanal (98 mg) in dichloromethane (6 ml) was added sodium triacetoxyborohydride (225 mg) and'stirred at room temperature. After 4 hours, aqueous sodium bicarbonate solution was added to the mixture and the mixture was stirred for several minutes. The organic layer was separated, dried over sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel using dichloromethanemethanol (10:1) as eluent and treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[3-(1-methyl-1H-imidazol-4-yl)propyl]piperazine dihydrochloride (187.1 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine | 315 mg | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C22H22F6N2O
reactant | 3-(1-methyl-1H-imidazol-4-yl)propanal | 98 mg | CN1C=NC(=C1)CCC=O | C7H10N2O
reactant | sodium triacetoxyborohydride | 225 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[3-(1-methyl-1H-imidazol-4-yl)propyl]piperazine dihydrochloride | 187.1 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCC=2N=CN(C2)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C29H32F6N4O.2ClH/c1-19-6-7-21(11-20(19)2)12-26-17-38(8-4-5-25-16-37(3)18-36-25)9-10-39(26)27(40)22-13-23(28(30,31)32)15-24(14-22)29(33,34)35;;/h6-7,11,13-16,18,26H,4-5,8-10,12,17H2,1-3H3;2*1H/t26-;;/m1../s1
